US05331006
A reaction mixture of 1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one (J. Org. Chem. 52, 3232, (1987)) (12.6 g, 50 mmol), formaline-solution (37% in water, 75 mL) and sodium hydroxide (4.4 g, 110 mmol) was heated to reflux for 4.5 hours. Then additional formaline solution (35 mL) and sodium hydroxide (2.2 g) was added and the reaction mixture was heated for 4 hours. The cooled suspension was diluted with ethyl acetate, the organic layer separated, washed with water and dried over Na2SO4. The organicsolution was evaporated in vacuum and the residue flash-chromatographed on silica gel using toluene/ethanol (3.5%) as eluant to give 1,3-dihydro-3-hydroxymethyl-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one (2.15 g, 15%).

reactant | 1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 50 mmol, 12.6 g | CN1C(CN=C(C2=C1C=CC=C2)C2=CC=CC=C2)=O | C16H14N2O
reactant | formaline | 75 mL | C=O | CH2O
reactant | sodium hydroxide | 110 mmol, 4.4 g | [OH-].[Na+]
reactant | formaline | 35 mL | C=O | CH2O
reactant | sodium hydroxide | 2.2 g | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3-dihydro-3-hydroxymethyl-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 2.15 g, 15% | OCC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C17H16N2O2
